US09145411B2
Step 1: 2-chloro-4-morpholinopyrido[3,2-d]pyrimidine-7-carbaldehyde
To a 50 mL round bottom flask, 4-(7-bromo-2-chloropyrido[3,2-d]pyrimidin-4-yl)morpholine (3.0 g, 0.0091 mol—Preparation 3) and dry THF (15 mL) were added under nitrogen atmosphere and then cooled to −78° C. To the reaction flask, 2.5 M n-butyl lithium (4.4 mL, 0.0109 mol) was slowly added and the reaction mixture was stirred at −78° C. for 30 minutes. To the reaction mixture, N,N-dimethylformamide (1.27 mL, 0.0164 mol) was added and the reaction mixture allowed to warm to 0° C. The reaction mass was quenched with 10% aqueous ammonium chloride (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated to provide the crude product. The crude product was purified by column chromatography (60-120 silica gel, 10-40% ethyl acetate) to provide the title compound as a light yellow solid (0.8 g, 31%). 1H NMR (300 MHz, CDCl3): δ 10.24 (s, 1H), 9.11 (d, J=2.1 Hz, 1H), 8.41 (d, J=2.1 Hz, 1H), 3.91 (t, J=4.8 Hz, 8H): LC-MS (ESI): Calculated mass. 278.06, Observed mass [M+H]+: 279.0 (RT=0.66 min).

reactant | 4-(7-bromo-2-chloropyrido[3,2-d]pyrimidin-4-yl)morpholine | 0.0091 mol, 3.0 g | BrC1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl | C11H10BrClN4O
reactant | n-butyl lithium | 0.0109 mol, 2.5 M, 4.4 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.0164 mol, 1.27 mL | CN(C=O)C | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-morpholinopyrido[3,2-d]pyrimidine-7-carbaldehyde | 0.8 g, 31% | ClC=1N=C(C2=C(N1)C=C(C=N2)C=O)N2CCOCC2 | C12H11ClN4O2
